US06897224B2
3-[1-(5-Fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-methylquinolin-5-ylimino)-2-(trifluoromethyl)propan-2-ol
Analogously to Example 1, 352 mg (2.23 mmol) of 5-amino-2-methylquinoline is reacted with 650 mg (2.12 mmol) of 3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-2-hydroxy-2-(trifluoromethyl)propanal and 2.80 ml of concentrated acetic acid in 19 ml of toluene. After chromatography on silica gel with hexane-ethyl acetate (0-100%), 870 mg (92% of theory) of the product is obtained.

reactant | 5-amino-2-methylquinoline | 2.23 mmol, 352 mg | NC1=C2C=CC(=NC2=CC=C1)C | C10H10N2
reactant | 3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-2-hydroxy-2-(trifluoromethyl)propanal | 2.12 mmol, 650 mg | FC=1C=CC(=C(C1)C1(CC1)CC(C=O)(C(F)(F)F)O)OC | C14H14F4O3
reactant | acetic acid | 2.80 ml | C(C)(=O)O | C2H4O2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | toluene | 19 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[1-(5-Fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-methylquinolin-5-ylimino)-2-(trifluoromethyl)propan-2-ol | FC=1C=CC(=C(C1)C1(CC1)CC(C=NC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)OC | C24H22F4N2O2
